US07208494B2
j) (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-6-chloro-5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester
A stirred solution of 0.34 g (1.42 mmol) 6-chloro-5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester in 7 mL N,N-dimethylformamide was cooled to 0° C. Potassium tert-butoxide (0.17 g, 1.50 mmol) was added and after 30 min. 0.37 g (1.57 mmol) (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester was added and the cooling bath was removed. After 3 h the reaction mixture was poured into 10% aqueous citric acid solution and extracted three times with ethyl acetate. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:n-hexane (1:5) as eluant to give the product as a colourless solid (87.8%).

reactant | 6-chloro-5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 1.42 mmol, 0.34 g | C(C)OC(=O)C1=CC=2C(=NC(=C(C2)C)Cl)N1 | C11H11ClN2O2
reactant | Potassium tert-butoxide | 1.50 mmol, 0.17 g | CC(C)([O-])C.[K+]
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 1.57 mmol, 0.37 g | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-6-chloro-5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 87.8% | C(C)OC(=O)C1=CC=2C(=NC(=C(C2)C)Cl)N1[C@@H](CNC(=O)OC(C)(C)C)C | C19H26ClN3O4
